US04847382
2-(5-Amino-2-pyridyl)-2-acetyloxy-acetic acid tert.-butylamide
5 g (16.9 mmol) of 2-acetoxy-2-(5-nitro-2-pyridyl)-N-tert.-butyl-acetamide are dissolved in 50 ml of 90% strength aqueous dioxane, 250 mg of 10% strength palladium-on-active charcoal are added and hydrogenation is carried out at room temperature until the uptake of hydrogen is complete. For working up, the catalyst is filtered off and the filtrate is evaporated. The residue is dried.

reactant | 2-acetoxy-2-(5-nitro-2-pyridyl)-N-tert.-butyl-acetamide | 16.9 mmol, 5 g | C(C)(=O)OC(C(=O)NC(C)(C)C)C1=NC=C(C=C1)[N+](=O)[O-] | C13H17N3O5
reactant | hydrogen | [H][H] | H2
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | palladium | [Pd] | Pd
product | 2-(5-Amino-2-pyridyl)-2-acetyloxy-acetic acid tert.-butylamide | C(C)(C)(C)NC(C(OC(C)=O)C1=NC=C(C=C1)N)=O | C13H19N3O3
